US07348438B2
5,6-Dichloro-1-(4-methanesulfonyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (483 mg) in DMF (5 mL) was added potassium carbonate powder (744 mg) and 4-methylsulphonylbenzyl bromide (1.68 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with ETOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40%-75% EtOAc/hexanes) to yield the title compound as an off-white solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 483 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 744 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylsulphonylbenzyl bromide | 1.68 g | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(4-methanesulfonyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC=C(C=C2)S(=O)(=O)C)C=C1Cl | C17H13Cl2F3N2O2S
